US05366987
(b) α-[[[2,6-bis(1-methylethyl)phenyl)amino]carbonyl]benzene acetic acid
In a manner similar to Example 134, α-[[[2,6-bis(1-methylethyl)phenyl]amino]carbonyl]-benzene acetic acid ethyl ester was saponified with KOH in ethanol to give the title compound.

reactant | α-[[[2,6-bis(1-methylethyl)phenyl]amino]carbonyl]-benzene acetic acid ethyl ester | C(C)OC(C(C1=CC=CC=C1)C(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C23H29NO3
reactant | KOH | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | α-[[[2,6-bis(1-methylethyl)phenyl)amino]carbonyl]benzene acetic acid | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)C(C(=O)O)C1=CC=CC=C1 | C21H25NO3
